US07566803B2
Preparation of 4-{1-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}-N-(2-methanesulfonylethyl)-2-methylbenzamide
Using a procedure analogous to Example 13C, from 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]propyl}-N-(2-methanesulfonylethyl)-2-methylbenzamide, Example 14, (0.08 g, 0.16 mmol), NMO (27 mg, 0.24 mmol), and TPAP (2.8 mg, 0.08 mmol) are reacted for 1 h to give the title compound (0.06 g, 76%).

reactant | 4-{1-ethyl-1-[4-(2-hydroxy-3,3-dimethylbutoxy)-3-methylphenyl]propyl}-N-(2-methanesulfonylethyl)-2-methylbenzamide | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(C(=O)NCCS(=O)(=O)C)C=C1)C | C29H43NO5S
reactant | NMO | 0.16 mmol, 0.08 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | TPAP | 0.08 mmol, 2.8 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4-{1-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}-N-(2-methanesulfonylethyl)-2-methylbenzamide | 0.06 g, 76% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)NCCS(=O)(=O)C)C=C1)C)C)=O)(C)C | C29H41NO5S
